US07541372B2
2-(4-Fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (2.00 g, 9.12 mmol) was converted using 4-fluoro-2-methoxy-benzoic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20, 1.59 g, 49%) which was obtained as a white solid. MS: m/e=352.3 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 9.12 mmol, 2.00 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 4-fluoro-2-methoxy-benzoic acid | FC1=CC(=C(C(=O)O)C=C1)OC | C8H7FO3
product | 2-(4-Fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 1.59 g, 49% | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
